US03976635
To a suspension of N-methoxycarbonyl-L-phenylalanine (1.65 g) and triethylamine (2.8 ml) in dry chloroform (15 ml), ethyl 2-methoxycarbonyloxyimino-2-cyanoacetate (4.0 g) is added, and the resulting mixture is stirred at room temperature for 2 hours. The reaction mixture is treated as in Example B to give N-methoxycarbonyl-L-phenylalanine methyl ester (1.2 g) as an oil.

reactant | N-methoxycarbonyl-L-phenylalanine | 1.65 g | COC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C11H13NO4
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-methoxycarbonyloxyimino-2-cyanoacetate | 4.0 g | COC(=O)ON=C(C(=O)OCC)C#N | C7H8N2O5
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methoxycarbonyl-L-phenylalanine methyl ester | 1.2 g | COC([C@@H](NC(=O)OC)CC1=CC=CC=C1)=O | C12H15NO4
